US04276420
Preparation of 1,2-dimethyl-4-phenyl-1,2,4-triazolidine-3-one-5-thione
A solution of 4.26 g (0.037 mol) thiophosgene in about 10 ml chloroform was added dropwise to a solution of 6.7 g (0.037 mol) 1,2-dimethyl-4-phenylsemicarbazide and 7.47 g (0.074 mol) triethylamine in 200 ml chloroform. A slightly exothermic reaction ensued. One hour after the addition was completed, the reaction mixture was heated under reflux for about 16 hours, cooled and evaporated under reduced pressure to give an oil residue. The residue was dissolved in dichloromethane, washed with water, dried over magnesium sulfate, filtered and evaporated under reduced pressure to give a red viscous oil. The oil was chromatographed on 200 g of silica gel using dichloromethane as eluant. The major product (4 g) from the chromatography was a semisolid, which on trituration with ether gave the desired product as a light tan solid, m.p. 118°-122° C. Infrared spectrum of the product showed strong carbonyl absorption at 5.8 micron. The product is tabulated in Table I as Compound No. 1.

reactant | thiophosgene | 0.037 mol, 4.26 g | C(=S)(Cl)Cl | CCl2S
reactant | 1,2-dimethyl-4-phenylsemicarbazide | 0.037 mol, 6.7 g | CNN(C(=O)NC1=CC=CC=C1)C | C9H13N3O
reactant | triethylamine | 0.074 mol, 7.47 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | about 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,2-dimethyl-4-phenyl-1,2,4-triazolidine-3-one-5-thione | CN1N(C(N(C1=S)C1=CC=CC=C1)=O)C | C10H11N3OS
